US04992547
2-Methyl-2-morpholino-1-(4-piperidinophenyl)-propan-1-one
12.1 g (46.3 mmol) of 3,3-dimethyl-2-methoxy-2-(4-piperidinophenyl)-oxirane and 26.1 g (0.30 mol) of morpholine are added together, and the mixture is heated to the refluxing temperature (about 130° C.). After 6 hours the mixture is cooled down and the morpholine is distilled off under reduced pressure. The residue is taken up in toluene and is extracted with dilute hydrochloric acid. The hydrochloric acid solution is rendered alkaline and is extracted with toluene. The toluene solution is dried with K2CO3 and concentrated. The residue is recrystallised from methanol. Melting point 159°-162° C.

reactant | 3,3-dimethyl-2-methoxy-2-(4-piperidinophenyl)-oxirane | 46.3 mmol, 12.1 g | CC1(C(O1)(C1=CC=C(C=C1)N1CCCCC1)OC)C | C16H23NO2
reactant | morpholine | 0.30 mol, 26.1 g | N1CCOCC1 | C4H9NO
product | 2-Methyl-2-morpholino-1-(4-piperidinophenyl)-propan-1-one | CC(C(=O)C1=CC=C(C=C1)N1CCCCC1)(C)N1CCOCC1 | C19H28N2O2
